US07910588B2
Add trifluoroacetic acid (1.00 mL, 13.24 mmol, 10 eq) to a solution of 3′-piperidin-1-yl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (0.46 g, 1.32 mmol, 1 eq) in DCM (10 mL) then stir the mixture at room temperature for 4 hr. Concentrate the reaction mixture, then dissolve in methanol and load on to a 10 g SCX-2 ion exchange cartridge (pre-washed with methanol). Wash with one column volume of methanol then elute with one column volume of 3.5 M ammonia in methanol. Concentrate to give 3′-piperidin-1-yl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.317 g, 0.97%). MS (m/z): 248.2 (M+1).

reactant | trifluoroacetic acid | 13.24 mmol, 1.00 mL, 10 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3′-piperidin-1-yl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 1.32 mmol, 0.46 g, 1 eq | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1N1CCCCC1 | C18H29N5O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3′-piperidin-1-yl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.317 g, 0.97% | N1(CCCCC1)C=1C(=NC=CN1)N1CCNCC1 | C13H21N5
